US04294960
7-Amino-3-cephem-4-carboxylic acid (2.54 g.) was dissolved in a solution of trimethylsilylacetamide (11.7 g.) and bis(trimethylsilyl)acetamide (15 ml.) in dried ethyl acetate (50 ml.) A solution of bromine (2.43 g.) in dried methylene chloride (10 ml.) was added dropwise to a solution of diketene (1.28 g.) in dried methylene chloride (25 ml.) at -30° C. over 10 minutes and stirred at the same temperature for 1.5 hours. The solution was added to the above solution containing 7-amino-3-cephem-4-carboxylic acid at -15° C. over 10 minutes, and stirred at -15° to -10° C. for 1.5 hours. Water (50 ml.) was added to the resultant solution. The ethyl acetate layer was separated, and extracted with aqueous solution of sodium bicarbonate. The aqueous extract was adjusted to pH 2.0 with 10% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylic acid (2.82 g.)

reactant | 7-Amino-3-cephem-4-carboxylic acid | 2.54 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | bromine | 2.43 g | BrBr | Br2
reactant | diketene | 1.28 g | C=C1CC(=O)O1 | C4H4O2
reactant | Water | 50 ml | O | H2O
solvent | trimethylsilylacetamide | 11.7 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | bis(trimethylsilyl)acetamide | 15 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-bromoacetyl)acetamido]-3-cephem-4-carboxylic acid | 2.82 g | BrCC(=O)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C11H11BrN2O5S
